US04476126
(c) Ethyl 1-Methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazole-3-butanoate
Potassium 1-methyl-5[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazole-3-butanoate (2.0 g) and concentrated sulphuric acid (1 ml) in anhydrous ethanol (200 ml) was heated under reflux for 16 h. The suspension was filtered, the filtrate evaporated, and saturated aqueous sodium bicarbonate (50 ml) added. The mixture was extracted with ethyl acetate, the extract washed with brine, dried, and evaporated to give the title compound (1.0 g) as an oil.

reactant | Potassium 1-methyl-5[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazole-3-butanoate | 2.0 g | CN1N=C(N=C1NCCCOC1=CC(=CC=C1)CN1CCCCC1)CCCC(=O)[O-].[K+]
reactant | sulphuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | Ethyl 1-Methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazole-3-butanoate | 1.0 g | CN1N=C(N=C1NCCCOC1=CC(=CC=C1)CN1CCCCC1)CCCC(=O)OCC | C24H37N5O3
